US04281003
1-(2-CHLORO-6-FLUOROBENZOYL)-3-(5-BROMO-2-PYRIDINYL)UREA
To a solution of 2-chloro-6-fluorobenzamidocarboxylic acid, 4-nitrophenyl ester, in an inert organic solvent is added 5-bromo-2-aminopyridine. The reaction mixture is stirred at an elevated temperature for a period of time, and is then evaporated to dryness under vacuum. The product named in the heading above, identical to the product of Example 2, is isolated and purified by recrystallization.

reactant | 2-chloro-6-fluorobenzamidocarboxylic acid, 4-nitrophenyl ester | ClC1=C(C(=O)NC(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C(=CC=C1)F | C14H8ClFN2O5
reactant | 5-bromo-2-aminopyridine | BrC=1C=CC(=NC1)N | C5H5BrN2
product | 1-(2-CHLORO-6-FLUOROBENZOYL)-3-(5-BROMO-2-PYRIDINYL)UREA | ClC1=C(C(=O)NC(=O)NC2=NC=C(C=C2)Br)C(=CC=C1)F | C13H8BrClFN3O2
